US08030500B2
5-(3-Amino-4-fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-1-yl)-2-methoxybenzonitrile
1-(3-Chloro-4-methoxyphenyl)-4-fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine (190 mg, 0.43 mmol), zinc cyanide (0.024 mL, 0.38 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (52.6 mg, 0.13 mmol), tris(dibenzylideneacetone)dipalladium(0) (58.7 mg, 0.06 mmol), DMF (5 mL) and a drop of water were added into a vial and heated in a microwave reactor for 1 h at 160° C. The mixture was filtered, diluted with MeOH and purified by preparative HPLC. The fractions containing the desired product were pooled and the MeCN removed in vacuo. The resulting aqueous residue was diluted with saturated aqueous NaHCO3 and extracted with DCM. The combined organics were passed through a phase separator (Sorbent), concentrated and dried in vacuum oven at 40° C. over night, to afford 85 mg (45%) of the title compound.

reactant | 1-(3-Chloro-4-methoxyphenyl)-4-fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine | 0.43 mmol, 190 mg | ClC=1C=C(C=CC1OC)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=CC=C1)C=1C=NC=NC1 | C25H18ClFN4O
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.13 mmol, 52.6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.38 mmol, 0.024 mL | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.06 mmol, 58.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | 5-(3-Amino-4-fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-1-yl)-2-methoxybenzonitrile | 85 mg, 45% | NC1=NC(C2=CC=CC(=C12)F)(C1=CC(=CC=C1)C=1C=NC=NC1)C=1C=CC(=C(C#N)C1)OC | C26H18FN5O
